********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Sep 28, 2015
*ECN S15-2269, Rev. C
*File Name: Si2319CDS_PS.txt and Si2319CDS_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product data sheet. Designers should refer to the
*appropriate data sheet of the same number for guaranteed specification
*limits.
.SUBCKT Si2319CDS D G S 
M1 3 GX S S PMOS W= 1485600u L= 0.25u 
M2 S GX S D NMOS W= 1485600u L= 3.675e-07 
R1 D 3 4.348e-02 TC=6.322e-03 7.896e-06 
CGS GX S 3.097e-10 
CGD GX D 1.392e-11 
RG G GY 4.3 
RTCV 100 S 1e6 TC=-2.823e-04 -3.875e-06 
ETCV GY GX 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD D S DBD 
**************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8 
+ RS = 1.099e-02 KP = 2.826e-06 NSUB = 5.105e+16 
+ KAPPA = 2.015e-02 ETA = 2.212e-04 NFS = 1.555e+12 
+ LD = 0 IS = 0 TPG = -1) 
*************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8 
+NSUB = 1.790e+16 IS = 0 TPG = -1 ) 
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 1.738e-08 T_MEASURED = 25 BV = 42 
+RS = 1.495e-02 N = 1.416e+00 IS = 5.772e-10 
+EG = 1.215e+00 XTI = 8.916e-01 TRS1 = 2.943e-03 
+CJO = 1.172e-10 VJ = 4.000e-01 M = 3.336e-01 ) 
.ENDS 
